US06849761B2
6-Methoxy-5-({[4-(trifluoromethoxy)benzyl]amino}methyl)-2-naphthoic acid
To a stirred solution of 6-methoxy-5-({[4-(trifluoromethoxy)-benzyl]amino}methyl)-2-naphthoic acid methyl ester (0.286 g, 0.682 mmol) in THF (1.00 mL) at rt was added 1 N KOH (0.682 mL, 0.682 mmol) dropwise. Enough MeOH (˜0.500 mL) was added to make reaction homogeneous. After 1 h at this temperature, the reaction was heated to 45° C. for 2 h. The solution was diluted with H2O (˜2-3 mL) and then acidified to pH 1 with 2 N HCl. The resulting solid was filtered off, washed with H2O and hexane, and dried on the high vacuum for 18 h to afford the product (0.207 g, 69%) as a white solid, mp 235-237° C.; 1H NMR (DMSO-d6) δ3.94 (s, 3H), 4.33 (s, 2H), 4.52 (s, 2H), 7.47 (d, J=8.3 Hz, 2H), 7.59 (d, J=9.2 Hz, 1H), 7.71 (d, J=8.4 Hz, 2H), 7.99 (d, J=9.0 Hz, 1H), 8.12 (d, J=9.0 Hz, 1H), 8.27 (d, J=9.0 Hz, 1H), 8.60 (s, 1H), 9.14-9.37 (bs, 2H), 12.71-13.25 (bs, 1H); IR (neat) 2520-3100, 1715, 1685, 1630, 1600, 1575, 1510, 1485, 1455, 1295, 1270, 1265, 1210, 1200, 1165, 1110, and 1100 cm−1; mass spectrum [(+) ESI], m/z406 (M +H)+ and [(−) ESI], m/z 404 (M−H)−; Anal. Calcd. for C21H18F3NO4.HCl.0.1H2O: C, 56.86; H, 4.36; N, 3.16, Found: C, 56.45; H, 4.18; N, 3.09.

reactant | 6-methoxy-5-({[4-(trifluoromethoxy)-benzyl]amino}methyl)-2-naphthoic acid methyl ester | 0.682 mmol, 0.286 g | COC(=O)C1=CC2=CC=C(C(=C2C=C1)CNCC1=CC=C(C=C1)OC(F)(F)F)OC | C22H20F3NO4
reactant | KOH | 0.682 mmol, 1 N, 0.682 mL | [OH-].[K+]
reactant | MeOH | ˜0.500 mL | CO | CH4O
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 1.00 mL | C1CCOC1 | C4H8O
solvent | H2O | ˜2-3 mL | O | H2O
product | 6-Methoxy-5-({[4-(trifluoromethoxy)benzyl]amino}methyl)-2-naphthoic acid | 0.207 g, 69% | COC=1C(=C2C=CC(=CC2=CC1)C(=O)O)CNCC1=CC=C(C=C1)OC(F)(F)F | C21H18F3NO4
